// gain_extraction: waveform verification only (50 us).
//
// Convergence analysis (3 seeds, 2^18 samples) is done in NumPy
// inside analyze_gain_extraction.py — no need to simulate it here.
//
// Signal path:
//   vin_src (sine + noise, clocked) --> dither_adder <-- LFSR (DPN)
//                                              |
//                                       gain_amp_fixed  (ACTUAL_GAIN = GAIN_NOM*(1+GAIN_ERR))
//                                              |
//                                        VAMP (diff)

simulator lang=spectre
global 0

ahdl_include "vin_src.va"
ahdl_include "lfsr.va"
ahdl_include "dither_adder.va"
ahdl_include "gain_amp_fixed.va"

parameters vdd=0.9 GAIN_NOM=8.0 GAIN_ERR=0.08 fs=50e6 fin=300e3
parameters ACTUAL_GAIN=8.64
parameters DITHER_AMP=0.014063
parameters VIN_NOISE=0.01

// ── Supplies ──────────────────────────────────────────────────────────────────
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// ── Clock: 50 MHz ─────────────────────────────────────────────────────────────
Vclk (clk 0) vsource type=pulse val0=0 val1=vdd period=20n delay=5n \
             rise=1n fall=1n width=9n

// ── Reset: deassert after 40 ns ───────────────────────────────────────────────
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  39.5n 0  40n vdd  100u vdd]

// ── LFSR enable ───────────────────────────────────────────────────────────────
Ven (en 0) vsource dc=vdd

// ── Clocked noisy sine input ──────────────────────────────────────────────────
IVIN (clk rst_n vinp vinn) vin_src \
     vdd=vdd vth=0.45 ampl=0.15 freq=fin sigma=VIN_NOISE

// ── LFSR ──────────────────────────────────────────────────────────────────────
ILFSR (dpn vdd vss clk en rst_n) lfsr seed=42

// ── Dither adder ──────────────────────────────────────────────────────────────
IDITH (vinp vinn dpn vdin_p vdin_n) dither_adder \
      vdd=vdd vth=0.45 DITHER_AMP=DITHER_AMP

// ── Fixed-gain amplifier ──────────────────────────────────────────────────────
IAMP (vdin_p vdin_n vamp_p vamp_n) gain_amp_fixed \
     vdd=vdd ACTUAL_GAIN=ACTUAL_GAIN

// ── Simulation: 50 us for waveform verification only ─────────────────────────
tran tran stop=50u maxstep=8n

save vinp:3f vinn:3f vamp_p:3f vamp_n:3f
